US05286901
(5,5-dimethyl-1,3-hexadiynyl)tri-n-butylstannane was synthesized as follows a solution containing ethylmagnesium bromide (19.3 millimoles) and 5,5-dimethyl-1,3hexadiyne (19.3 millimoles) in 50 milliliters of ether was refluxed for 5 hours under nitrogen, then cooled to -78° C. To this solution, 18.6 millimoles of tri-n-butyltin chloride in 10 milliliters of ether was added slowly. The reaction mixture was allowed to warm to room temperature and stirred for 16 hours. Water was added to form a two-phase mixture, the phases were separated, and the aqueous phase was washed with ether. The ether wash was combined with the organic phase from the initial phase separation, and evaporated under reduced pressure to yield a crude oil. Distillation in vacuo produced 2.92 grams of pure (5,5-dimethyl-1,3-hexadiynyl)tri-n-butylstannane.

reactant | ethylmagnesium bromide | 19.3 millimoles | C(C)[Mg]Br
reactant | 5,5-dimethyl-1,3hexadiyne | 19.3 millimoles | CC(C#CC#C)(C)C | C8H10
reactant | tri-n-butyltin chloride | 18.6 millimoles | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | Water | O | H2O
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | ether | 10 milliliters | CCOCC | C4H10O
product | (5,5-dimethyl-1,3-hexadiynyl)tri-n-butylstannane | 2.92 grams | CC(C#CC#C[Sn](CCCC)(CCCC)CCCC)(C)C | InChI=1S/C8H9.3C4H9.Sn/c1-5-6-7-8(2,3)4;3*1-3-4-2;/h2-4H3;3*1,3-4H2,2H3;
